US09024027B2
A solution of methyl 2-(5′-amino-5,5-dimethyl-2′-oxospiro[[1,3]dioxane-2,3′-indoline]-1′-yl)acetate (307 mg, 0.958 mmol) in pyridine (15 ml) was cooled to 0° C. and methanesulfonyl chloride (0.090 ml, 1.150 mmol) was added; the reaction was warmed to room temperature and stirred for 25 minutes. The solvent was evaporated, and the residue was partitioned between ethyl acetate and 1N HCl; the organic phase was dried over Na2SO4, filtered and evaporated. The crude was purified by flash chromatography on silica gel (DCM:MeOH from 99.5:0.5 to 98.75:1.25) affording methyl 2-(5,5-dimethyl-5′-(methylsulfonamido)-2′-oxospiro[[1,3]dioxane-2,3′-indoline]-1′-yl)acetate (351 mg, 0.881 mmol, 92% yield). MS/ESI+ 398.9 [MH]+.

reactant | methyl 2-(5′-amino-5,5-dimethyl-2′-oxospiro[[1,3]dioxane-2,3′-indoline]-1′-yl)acetate | 0.958 mmol, 307 mg | NC=1C=C2C3(C(N(C2=CC1)CC(=O)OC)=O)OCC(CO3)(C)C | C16H20N2O5
reactant | methanesulfonyl chloride | 1.150 mmol, 0.090 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | methyl 2-(5,5-dimethyl-5′-(methylsulfonamido)-2′-oxospiro[[1,3]dioxane-2,3′-indoline]-1′-yl)acetate | 0.881 mmol, 351 mg, 92% yield | CC1(COC2(C(N(C3=CC=C(C=C23)NS(=O)(=O)C)CC(=O)OC)=O)OC1)C | C17H22N2O7S
